US06706732B1
(±)-7-(5-Fluoro-2-methylphenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline hydrochloride (43.8 g) was suspended in methanol (300 ml), and treated dropwise with a 28% solution of sodium methoxide in methanol (53.1 g). The mixture was concentrated under reduced pressure, and the residue was washed with water and dried to obtain (±)-7-(5-fluoro-2-methylphenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline (33.0 g).

reactant | (±)-7-(5-Fluoro-2-methylphenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline hydrochloride | 43.8 g | Cl.FC=1C=CC(=C(C1)C1CC(C=2C(=CC=NC2C1)C)=NNC(=N)N)C
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 53.1 g | CO | CH4O
product | (±)-7-(5-fluoro-2-methylphenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline | 33.0 g | FC=1C=CC(=C(C1)C1CC(C=2C(=CC=NC2C1)C)=NNC(=N)N)C | C18H20FN5
